US09233964B2
THF tetrahydrofuran v volume
Analytical HPLC/MS Analytical HPLC/MS was performed on a system consisting of a Waters Acquity UPLC, Waters Micromass LCT Premier XE mass spectrometer, Waters Acquity PDA. Column: Acquity UPLC HSS T3 1.8 μm; 2.1×50 mm; solventsystem: A=10 mM Ammonium acetate+0.1% HCOOH and B═CH3CN+0.1% HCOOH; flow rate=0.7 mL/min; method (4.8 min): Linear gradient method going from 1% B to 95% B in 2.6 minutes and staying at 95% B for 1.2 minute. General Procedure of Preparation:

reactant | Ammonium acetate | 10 mM | C(C)(=O)[O-].[NH4+]
reactant | CH3CN | CC#N | C2H3N
product | THF tetrahydrofuran | C1CCOC1.O1CCCC1 | 2C4H8O
